US08207164B2
b) [1-(3-Bromo-phenyl)-2,2,2-trifluoro-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester
To an at −7° C. stirred solution of 5 g (11.73 mmol) 2-(3-bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propionic acid ethyl ester in 50 ml toluene were added 58.7 ml of a 1.7M solution of DibalH in toluene. The mixture was stirred overnight at rt and quenched with an aqueous tartaric acid solution. The mixture was extracted with EtOAc and the organic phase was washed with brine, dried with MgSO4.H2O and evaporated. Purification via chromatography on silica gel (c-hexane/15-50% TBME) gave the desired product as a colorless resin.

reactant | 2-(3-bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propionic acid ethyl ester | 11.73 mmol, 5 g | C(C)OC(C(C(F)(F)F)(NC(=O)OC(C)(C)C)C1=CC(=CC=C1)Br)=O | C16H19BrF3NO4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | [1-(3-Bromo-phenyl)-2,2,2-trifluoro-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(F)(F)F)(CO)C1=CC(=CC=C1)Br)=O | C14H17BrF3NO3
